US05049551
Preparation of 2',3'-O-isopropylidene-5-fluorouridine (9)
In 750 ml of acetone were added 15 g of 5-fluorouridine, 7.5 ml of 2,2-dimethoxypropane and 1.1 g of p-toluenesulfonic acid monohydrate, and the mixture was reacted at room temperature for 4.5 hours under stirring. After allowed to stand overnight at room temperature, 5 g of sodium hydrogen carbonate was added to the reaction mixture and the mixture was stirred at room temperature for 2.5 hours. After insolubles were filtered off, the filtrate was condensed under reduced pressure, and the obtained crystals were recrystallized from ethanol to give 15.7 g (Yield: 84%) of the title compound as colorless needle crystals.

reactant | 5-fluorouridine | 15 g | FC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O6
reactant | 2,2-dimethoxypropane | 7.5 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid monohydrate | 1.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | 5 g | C(O)([O-])=O.[Na+]
solvent | acetone | 750 ml | CC(=O)C | C3H6O
product | 2',3'-O-isopropylidene-5-fluorouridine | 15.7 g, Yield: 84% | CC1(OC2[C@H](O[C@H](C2O1)N3C=C(C(=O)NC3=O)F)CO)C | C12H15FN2O6
